US07074800B1
Using an analogous procedure to that described for the synthesis of the starting material in Example 201, 7-benzyloxy-4-chloro-6-methoxyquinazoline (2 g, 6.6 mmol), (prepared as described for the starting material in Example 1), was reacted with 5-amino-2-methylindole (1.07 g, 7.3 mmol) to give 7-benzyloxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline hydrochloride (2.9 g, quanti.).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 6.6 mmol, 2 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 5-amino-2-methylindole | 7.3 mmol, 1.07 g | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
product | 7-benzyloxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline hydrochloride | 2.9 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C2C=C(NC2=CC1)C)OC | InChI=1S/C25H22N4O2.ClH/c1-16-10-18-11-19(8-9-21(18)28-16)29-25-20-12-23(30-2)24(13-22(20)26-15-27-25)31-14-17-6-4-3-5-7-17;/h3-13,15,28H,14H2,1-2H3,(H,26,27,29);1H
